US07652049B2
(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-bromo-5-(methylthio)benzyl]-4-methyl-1,3-oxazolidin-2-one
To a solution of (4S,5R)-3-(5-amino-2-bromobenzyl)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one (457 mg, 0.92 mmol) in methyl disulfide (4 mL) was added tert-butyl nitrite (182 μL, d=0.867, 1.38 mmol). The resulting mixture was stirred at 80° C. for 1 h. An aliquot indicated completion of the reaction. The titled compound was obtained as a glassy material after preparative TLC plates eluted by 25% EtOAc in hexanes. LC-MS: 529.71 (M+1)+.

reactant | (4S,5R)-3-(5-amino-2-bromobenzyl)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one | 0.92 mmol, 457 mg | NC=1C=CC(=C(CN2C(O[C@@H]([C@@H]2C)C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=O)C1)Br | C19H15BrF6N2O2
reactant | tert-butyl nitrite | 1.38 mmol, 182 μL | N(=O)OC(C)(C)C | C4H9NO2
reactant | methyl disulfide | 4 mL | CSSC | C2H6S2
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-bromo-5-(methylthio)benzyl]-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)SC)Br)C)(F)F | C20H16BrF6NO2S
